US05753664
2,3-Dichloro-5-methyl-1H-pyrrolo[2,3-d]pyridazin-4(5H)-one
A solution of methylhydrazine (4.72 g) and 3-carbethoxy-4,5-dichloro-2-formylpyrrole (4.72 g) in ethanol (50 ml) was refluxed for 2 hours. After cooling to room temperature, concentrated sulfuric acid (0.5 ml) was added and the mixture was refluxed for another 21 hours. The reaction mixture was cooled to room temperature and the resulting crystals were collected by filtration. The crystals were rinsed with ethanol and ether and dried in vacuo to provide the title compound as brown powder (3.29 g; yield 81%). H-NMR (DMSO-d6) δ: 3.66(3H,s), 8.11(1H,s).

reactant | methylhydrazine | 4.72 g | CNN | CH6N2
reactant | 3-carbethoxy-4,5-dichloro-2-formylpyrrole | 4.72 g | C(=O)(OCC)C1=C(NC(=C1Cl)Cl)C=O | C8H7Cl2NO3
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2,3-Dichloro-5-methyl-1H-pyrrolo[2,3-d]pyridazin-4(5H)-one | 3.29 g, yield 81% | ClC1=C(C2=C(C=NN(C2=O)C)N1)Cl | C7H5Cl2N3O
